US07951824B2
Step 1: 4-Bromo-6-methyl-pyridine-2-carboxylic acid (2-methyl-pyrimidin-4-yl)-amide
The tide compound, white solid, MS (ISP): m/e=307.1, 309.2 (M+H)+, was prepared from 4-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 1. Step 5 was performed using 4-Amino-2-methylpyrimidine instead of 2-Amino-4-methylthiazole.

reactant | 4-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)Br)C | C9H10BrNO2
reactant | 4-Amino-2-methylpyrimidine | NC1=NC(=NC=C1)C | C5H7N3
product | 4-Bromo-6-methyl-pyridine-2-carboxylic acid (2-methyl-pyrimidin-4-yl)-amide | CC1=NC=CC(=N1)NC(=O)C1=NC(=CC(=C1)Br)C | C12H11BrN4O
